US09447090B2
To a solution of 1.5 ml of (1R)—N-benzyl-1-phenylethanamine in 40 ml of THF was added 4.35 ml of n-butyllithium (1.62 M hexane solution) at −78° C., followed by stirring for 30 minutes. At the same temperature, a solution of 1.00 g of tert-butyl (2E)-3-[2-(bromomethyl)-4-methylphenyl]acrylate in 5 ml of THF was added thereto, followed by stirring for 1.5 hours. To the reaction mixture was added water, followed by warming to room temperature. The solvent was evaporated under reduced pressure and ethyl acetate was then added thereto to carry out a layer separation operation. The organic layer was washed with a 1 M aqueous citric acid solution, water, and saturated brine in this order, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.17 g of tert-butyl (1S,2R)-1-{benzyl[(1R)-1-phenylethyl]amino}-5-methylindane-2-carboxylate. Further, the present Preparation Example is in accordance with the method described in a reference (Synlett, 1999, No. 12, 1919-1920 by D. A. Price).

reactant | (1R)—N-benzyl-1-phenylethanamine | 1.5 ml | C(C1=CC=CC=C1)N[C@H](C)C1=CC=CC=C1 | C15H17N
reactant | n-butyllithium | 1.62 M, 4.35 ml | C(CCC)[Li]
reactant | tert-butyl (2E)-3-[2-(bromomethyl)-4-methylphenyl]acrylate | 1.00 g | BrCC1=C(C=CC(=C1)C)/C=C/C(=O)OC(C)(C)C | C15H19BrO2
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-butyl (1S,2R)-1-{benzyl[(1R)-1-phenylethyl]amino}-5-methylindane-2-carboxylate | 1.17 g | C(C1=CC=CC=C1)N([C@H]1[C@@H](CC2=CC(=CC=C12)C)C(=O)OC(C)(C)C)[C@H](C)C1=CC=CC=C1 | C30H35NO2
